US06384041B1
A mixture of 66 mg (0.129 mmol) of [[2-(methylthio)-5-(aminooxoacetyl)-6-ethyl-7-[[2-(trifluoromethyl)phenyl]methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy)acetic acid methyl ester and 10 mL of methanol was treated with 0.10 mL of 2M sodium hydroxide and stirred at reflux for 4 hours. The reaction was cooled to ambient temperature. The product precipitated upon addition of lMHCland was collected by filtration. The solids were dried in vacuo to provide 50 mg (79%) of [[2-(methylthio)-5-(aminooxoacetyl)-6-ethyl-7-[[2-(trifluoromethyl)phenyl]methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid as a solid. nmr(300 MHz,dmso-d6) δ0.99 (t,3H), 2.36 (s,3H), 2.82 (q,2H), 4.86 (s,2H),5.62 (s,2H), 6.48 (d, 1H), 751 (m,2H),7.64 (s, 1H), 7.84 (d 1H), 8.05 (s, 1H)

reactant | [[2-(methylthio)-5-(aminooxoacetyl)-6-ethyl-7-[[2-(trifluoromethyl)phenyl]methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy)acetic acid methyl ester | 0.129 mmol, 66 mg | COC(COC=1C2=C(N=C(N1)SC)N(C(=C2C(C(=O)N)=O)CC)CC2=C(C=CC=C2)C(F)(F)F)=O | C22H21F3N4O5S
reactant | sodium hydroxide | 2M, 0.10 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | [[2-(methylthio)-5-(aminooxoacetyl)-6-ethyl-7-[[2-(trifluoromethyl)phenyl]methyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid | 50 mg, 79% | CSC=1N=C(C2=C(N1)N(C(=C2C(C(=O)N)=O)CC)CC2=C(C=CC=C2)C(F)(F)F)OCC(=O)O | C21H19F3N4O5S
